US06353025B1
To a stirred solution of 2-[[4-(2-bromoethyl)phenyl]-amino]-N,N-dimethylacetamide (1.13 g) in acetonitrile (11.3 ml) were added concentrated hydrochloric acid (331 μl) and N-chloro-succinimide (1.06 g) under ice-cooling, and the mixture was stirred for 1 hour. A solution of sodium thiosulfate (1.26 g) in water (20 ml) was added to the reaction mixture, and the resulting mixture was stirred for 30 minutes under ice-cooling. The reaction mixture was diluted with water and extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1) gave 2-[[4-(2-bromoethyl)-2,6-dichlorophenyl]amino]-N,N-dimethylacetamide (795 mg).

reactant | 2-[[4-(2-bromoethyl)phenyl]-amino]-N,N-dimethylacetamide | 1.13 g | BrCCC1=CC=C(C=C1)NCC(=O)N(C)C | C12H17BrN2O
reactant | hydrochloric acid | 331 μl | Cl | ClH
reactant | N-chloro-succinimide | 1.06 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | sodium thiosulfate | 1.26 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 11.3 ml | C(C)#N | C2H3N
solvent | water | 20 ml | O | H2O
product | 2-[[4-(2-bromoethyl)-2,6-dichlorophenyl]amino]-N,N-dimethylacetamide | 795 mg | BrCCC1=CC(=C(C(=C1)Cl)NCC(=O)N(C)C)Cl | C12H15BrCl2N2O
